US05463073
Methyl 2-ethylthio-4-methylthieno[3,4-d]imidazole-6-carboxylate
A mixture of methyl 2,3-dihydro-4-methyl-2-thioxothieno[3,4-d]imidazole-6-carboxylate (1.1 g), ethyl iodide (0.75 g), 2N NaOH (2.4 ml) and methanol (30 ml) was stirred at room temperature for 3 hours. The reaction mixture was concentrated, and there was added water to give crystals. Recrystallization from ethyl acetate--hexane afforded colorless prisms (1.0 g, 83%), m.p. 159°-160° C.

reactant | methyl 2,3-dihydro-4-methyl-2-thioxothieno[3,4-d]imidazole-6-carboxylate | 1.1 g | CC=1SC(=C2NC(NC21)=S)C(=O)OC | C8H8N2O2S2
reactant | ethyl iodide | 0.75 g | C(C)I | C2H5I
reactant | NaOH | 2N, 2.4 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | Methyl 2-ethylthio-4-methylthieno[3,4-d]imidazole-6-carboxylate | C(C)SC=1NC=2C(N1)=C(SC2C)C(=O)OC | C10H12N2O2S2
